US06815459B2
Step 1: Synthesis of 2-Methylseleno-3-nitrobenzoic acid (38)
To a solution of 500 mg (2.0 mmol) of 2-bromo-3-nitrobenzoic acid in anhydrous THF (15 mL) was added 2.80 mL (4.47 mmol) of n-BuLi (1.6 M soln. in Hex.) slowly at −78° C. After 10 minutes, a solution of 383 mg (2.03 mmol) of dimethyl diselenide in THF (5 mL) was added. After 30 minutes, the reaction mixture was warmed to room temperature. After additional stirring for 2 hours, ethyl acetate was added. The organic layer was washed with 1 N HCl solution, dried over MgSO4, and concentrated under reduced pressure. 470 mg of crude product was obtained and used for the next reaction without further purification.

reactant | 2-bromo-3-nitrobenzoic acid | 2.0 mmol, 500 mg | BrC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H4BrNO4
reactant | n-BuLi | 4.47 mmol, 1.6 M, 2.80 mL | [Li]CCCC
reactant | dimethyl diselenide | 2.03 mmol, 383 mg | C[Se][Se]C | C2H6Se2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-Methylseleno-3-nitrobenzoic acid | 470 mg | C[Se]C1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C8H7NO4Se
